US07612084B2
4-{5-[4-(2-aminoethyl)phenoxy]pentyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol bis hydrochloride salt
Tert-butyl(2-{4-[(5-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}pentyl)oxy]phenyl}ethyl)carbamate (Preparation 58, 1.66 g, 2.69 mmol) was dissolved in dichloromethane (20 ml) and ethanol (3 ml) and hydrochloric acid (12 ml of a 2M solution in diethyl ether) was added, and the mixture stirred overnight at room temperature. Solvent was removed in vacuo and the residue dissolved in dichloromethane and solvent removed in vacuo again to furnish the title compound as a yellow foam, 1.6 g

reactant | Tert-butyl(2-{4-[(5-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}pentyl)oxy]phenyl}ethyl)carbamate | 2.69 mmol, 1.66 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OCCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)=O | C39H56N2O4
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-{5-[4-(2-aminoethyl)phenoxy]pentyl}-2-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenol bis hydrochloride salt | Cl.Cl.NCCC1=CC=C(OCCCCCC2=CC(=C(C=C2)O)[C@H](CCN(C(C)C)C(C)C)C2=CC=CC=C2)C=C1 | InChI=1S/C34H48N2O2.2ClH/c1-26(2)36(27(3)4)23-21-32(30-12-8-5-9-13-30)33-25-29(16-19-34(33)37)11-7-6-10-24-38-31-17-14-28(15-18-31)20-22-35;;/h5,8-9,12-19,25-27,32,37H,6-7,10-11,20-24,35H2,1-4H3;2*1H/t32-;;/m1../s1
